US08461209B2
(1) 2,2-dimethyl-5-[4-(phenylethynyl)benzyl]-1,3-dioxane-4,6-dione
To a mixture of Meldrum's acid (688 mg) and 4-phenylethynylbenzoic acid (955 mg) in methylene chloride (30 mL) was added a solution of 4-dimethylaminopyridine (830 mg) and N, N′-dicyclohexylcarbodiimide (976 mg) in methylene chloride (15 mL) under ice-cooling, and the mixture was stirred at room temperature for 66 hr. Insoluble material was removed by filtration, and the filtrate was washed with 10% potassium hydrogen sulfate (30 mL) and saturated brine and concentrated under reduced pressure. The residue was dissolved in acetic acid (5 mL), and the solution was cooled to 0° C. Sodium borohydride (408 mg) was added, and the mixture was stirred at room temperature for 6 hr. Water (50 mL) was added to the reaction mixture, and the mixture was extracted with methylene chloride (50 mL×2). The organic layer was washed with saturated brine and concentrated under reduced pressure. The residue was washed with isopropanol, and the resulting precipitate was collected by filtration to give the title compound (654 mg) as a white solid.

reactant | Meldrum's acid | 688 mg | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | 4-phenylethynylbenzoic acid | 955 mg | C1(=CC=CC=C1)C#CC1=CC=C(C(=O)O)C=C1 | C15H10O2
reactant | N, N′-dicyclohexylcarbodiimide | 976 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 830 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-5-[4-(phenylethynyl)benzyl]-1,3-dioxane-4,6-dione | 654 mg | CC1(OC(C(C(O1)=O)CC1=CC=C(C=C1)C#CC1=CC=CC=C1)=O)C | C21H18O4
